US07776848B2
3-Dimethylaminomethyl-4-phenyl-4-hydroxy-cyclohexanone hydrochloride
215 ml of hydrochloric acid (32%, excess) were added rapidly at 0° C. to a solution of 7-dimethylaminomethyl-8-phenyl-1,4-dioxa-spiro[4.5]decan-8-ol hydrochloride (85 g, 259 mmol) in tetrahydrofuran/water mixture, and stirring was then carried out for 16 hours at RT. The resulting colorless solid was filtered out with suction and dried. 47.5 g (65%) of the product were obtained.

reactant | hydrochloric acid | 215 ml | Cl | ClH
reactant | 7-dimethylaminomethyl-8-phenyl-1,4-dioxa-spiro[4.5]decan-8-ol hydrochloride | 259 mmol, 85 g | Cl.CN(C)CC1CC2(OCCO2)CCC1(O)C1=CC=CC=C1
solvent | tetrahydrofuran water | O1CCCC1.O
product | 3-Dimethylaminomethyl-4-phenyl-4-hydroxy-cyclohexanone hydrochloride | 47.5 g, 65% | Cl.CN(C)CC1CC(CCC1(O)C1=CC=CC=C1)=O | InChI=1S/C15H21NO2.ClH/c1-16(2)11-13-10-14(17)8-9-15(13,18)12-6-4-3-5-7-12;/h3-7,13,18H,8-11H2,1-2H3;1H
